US07666878B2
102b) [1-(4-Fluoro-3-methoxy-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester
To a stirred, ice-cooled (0° C.) solution of sodium hydride (0.026 g of a 60% dispersion in mineral oil, 0.686 mmol) in THF (3 ml) under an inert atmosphere of Argon is added dropwise (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester ((0.1 g, 0.49 mmol) in dry THF (3 ml). The reaction mixture is stirred at 0° C. for 1 hour and then treated with 4-fluoro-3-methoxy-benzenesulfonyl chloride (0.154 g, 0.686 mmol) in dry THF (3 ml). Stirring continued at 0° C. for 30 minutes and then the reaction mixture is poured onto water (100 ml) and extracted with ethyl acetate (3×50 ml). The organic portions are separated and washed with water (2×50 ml), brine (50 ml), dried (MgSO4) and concentrated in vacuo. The resulting crude is purified by chromatography on silica eluting with iso-hexane/ethyl acetate (0%-20% ethyl acetate) yields the titled product. (MH+ 392).

reactant | sodium hydride | [H-].[Na+]
reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | 4-fluoro-3-methoxy-benzenesulfonyl chloride | 0.686 mmol, 0.154 g | FC1=C(C=C(C=C1)S(=O)(=O)Cl)OC | C7H6ClFO3S
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | [1-(4-Fluoro-3-methoxy-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)S(=O)(=O)C2=CC(=C(C=C2)F)OC)C)=O | C18H17FN2O5S
